US05252744
reacting (i) the at least one hydantoin reactant and (ii) the at least one dehydrated formaldehyde source reactant or substantially anhydrous formaldehyde source reactant in the molten system, while removing reaction water, to yield anhydrous molten methylolhydantoin; and

reactant | hydantoin | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | formaldehyde | C=O | CH2O
product | methylolhydantoin | C(O)N1C(=O)NC(=O)C1 | C4H6N2O3
